US08492582B2
Ethylene glycol dimethyl ether (2.0 mL), water (0.60 mL), furan-2-boronic acid (0.047 g), sodium carbonate (0.093 g), and bis(triphenylphosphine)palladium(II) dichloride (4.9 mg) were added to tert-butyl 2-(2-(benzyloxy)-5-(morpholin-4-yl)benzamido)-4-bromobenzoate (0.20 g), followed by stirring at 75° C. for 2 hours. The reaction mixture was cooled to room temperature, and bis(triphenylphosphine)palladium(II) dichloride (4.9 mg) was added thereto, followed by stirring at 75° C. for 2 hours. The reaction mixture was cooled to room temperature, and water and ethyl acetate were added thereto. The organic layer was separated and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [eluent: 85-70% hexane/ethyl acetate] to obtain 0.14 g of tert-butyl 2-(2-(benzyloxy)-5-(morpholin-4-yl)benzamido)-4-(furan-2-yl)benzoate as a light yellow solid.

reactant | Ethylene glycol dimethyl ether | 2.0 mL | COCCOC | C4H10O2
reactant | furan-2-boronic acid | 0.047 g | O1C(=CC=C1)B(O)O | C4H5BO3
reactant | sodium carbonate | 0.093 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | tert-butyl 2-(2-(benzyloxy)-5-(morpholin-4-yl)benzamido)-4-bromobenzoate | 0.20 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)Br)C=C(C=C1)N1CCOCC1 | C29H31BrN2O5
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 4.9 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 4.9 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | water | 0.60 mL | O | H2O
product | tert-butyl 2-(2-(benzyloxy)-5-(morpholin-4-yl)benzamido)-4-(furan-2-yl)benzoate | 0.14 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C=2OC=CC2)C=C(C=C1)N1CCOCC1 | C33H34N2O6
